US08735440B2
Step 2: ethyl 6-bromo-9-(2-hydroxy-3-phenoxypropyl)-9H-pyrido[3,4-b]indole-3-carboxylate (P7C3-S174)
Following Representative Procedure 1, the title compound ethyl 6-bromo-9-(2-hydroxy-3-phenoxypropyl)-9H-pyrido[3,4-b]indole-3-carboxylate was prepared from ethyl 6-bromo-9H-pyrido[3,4-b]indole-3-carboxylate and phenoxymethyloxirane in 71% yield.

reactant | ethyl 6-bromo-9H-pyrido[3,4-b]indole-3-carboxylate | BrC=1C=C2C3=C(NC2=CC1)C=NC(=C3)C(=O)OCC | C14H11BrN2O2
reactant | phenoxymethyloxirane | O(C1=CC=CC=C1)CC1OC1 | C9H10O2
product | ethyl 6-bromo-9-(2-hydroxy-3-phenoxypropyl)-9H-pyrido[3,4-b]indole-3-carboxylate | BrC=1C=C2C3=C(N(C2=CC1)CC(COC1=CC=CC=C1)O)C=NC(=C3)C(=O)OCC | C23H21BrN2O4
